US07790751B2
4-[4-Amino-3-(1-naphthylsulfonylmethyl)phenoxymethyl]piperidine-1-carboxylic Acid Benzyl Ester
A mixture of 4-[3-(1-naphthylsulfonylmethyl)-4-nitrophenoxymethyl]-piperidine-1-carboxylic acid benzyl ester (0.9 g, 1.6 mmoles) and stannous chloride (1.8 g, 8 mmoles) in ethanol was heated at reflux temperature for 5 hours, cooled and concentrated under vacuum. The concentrate was diluted with water and extracted with EtOAc. The extracts were combined, dried over Na2SO4 and concentrated to afford the title compound (0.74 g, 1.36 mmoles).

reactant | 4-[3-(1-naphthylsulfonylmethyl)-4-nitrophenoxymethyl]-piperidine-1-carboxylic acid benzyl ester | 1.6 mmoles, 0.9 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)COC1=CC(=C(C=C1)[N+](=O)[O-])CS(=O)(=O)C1=CC=CC2=CC=CC=C12 | C31H30N2O7S
solvent | ethanol | C(C)O | C2H6O
product | 4-[4-Amino-3-(1-naphthylsulfonylmethyl)phenoxymethyl]piperidine-1-carboxylic Acid Benzyl Ester | 1.36 mmoles, 0.74 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)COC1=CC(=C(C=C1)N)CS(=O)(=O)C1=CC=CC2=CC=CC=C12 | C31H32N2O5S
